US07098212B2
3-[3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-ureido]-propionic acid
To a solution of 3-[3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-ureido]-propionic acid methyl ester (0.057 g, 0.11 mmol) in tetrahydrofuran (3 mL), methanol (3 mL) and water (1 mL) was added lithium hydroxide monohydrate (0.023 g, 0.55 mmol). The reaction was stirred at ambient temperature overnight, concentrated in vacuo, taken up in methanol, passed through an ion exchange column and then treated with hydrogen chloride gas to give the title compound as its hydrochloride salt (0.035 g, LRMS: 507.2).

reactant | 3-[3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-ureido]-propionic acid methyl ester | 0.11 mmol, 0.057 g | COC(CCNC(=O)NC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)C)=O | C25H30ClFN4O5
reactant | lithium hydroxide monohydrate | 0.55 mmol, 0.023 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 3-[3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-ureido]-propionic acid | ClC=1C=CC(=C(C1)NC(NCCC(=O)O)=O)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)C | C24H28ClFN4O5
